US05013729
(S)-2-Bromo-1,4-di(methanesulfonyloxy)butane
A solution of 70 g (0.414 mol) (S)-2-bromo-1,4-butanediol in 1.5 liters methylene chloride was cooled in ice and 173 ml (1.24 mol) triethylamine (dried over potassium hydroxide) was added to give a clear solution. To this was added dropwise over 80 minutes at 5° to 15° C., 96 ml (1.24 mol) methanesulfonyl chloride. The mixture was then stirred at room temperature for 2.5 hours, washed 2×750 ml with water and 1×750 ml brine, dried (MgSO4), and the solvent evaporated to give an amber oil which was purified by chromatography on a 140 mm×25 cm silica gel column, eluting with 9:1 chloroform:ethyl acetate. The product fractions were combined and solvent evaporated to give 105 g (97%) of the title compound as a waxy white solid; [alpha]D =-34.49° (c=5 in CHCl3).

reactant | (S)-2-bromo-1,4-butanediol | 0.414 mol, 70 g | Br[C@H](CO)CCO | C4H9BrO2
reactant | triethylamine | 1.24 mol, 173 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 1.24 mol, 96 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | methylene chloride | 1.5 liters | C(Cl)Cl | CH2Cl2
product | (S)-2-Bromo-1,4-di(methanesulfonyloxy)butane | 105 g, 97% | Br[C@H](COS(=O)(=O)C)CCOS(=O)(=O)C | C6H13BrO6S2
